US09216998B2
To a mixture of 2-(2-((tert-butyldimethylsilyl)oxy)ethyl-6-phenethyl-7-(trifluoromethyl)-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole (107 mg, 0.21 mmol) in THF was added conc. HCl (2 mL) at 0° C. and the resulting mixture stirred for 1 h. Purification by reverse-phase chromatography (25→90% CH3CN—H2O-TFA) yielded 2-(6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indol-2(1H)-yl)ethanol (50 mg).

reactant | 2-((tert-butyldimethylsilyl)oxy)ethyl-6-phenethyl-7-(trifluoromethyl)-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole | 0.21 mmol, 107 mg | [Si](C)(C)(C(C)(C)C)OCCC1CNCC=2C=C(C(=C3C=CN1C23)C(F)(F)F)CCC2=CC=CC=C2 | C28H37F3N2OSi
reactant | HCl | 2 mL | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
product | 2-(6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indol-2(1H)-yl)ethanol | 50 mg | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNC(C3)CCO)C(F)(F)F | C22H23F3N2O
